US03953508
A first solution is prepared by dissolving 0.02 mole (2.18 g) of paraaminophenol in 200 cm3 of a 0.1 N NaOH solution. A second solution is prepared by dissolving 0.01 mole (1.37 g) of 2,6-dimethyl-3-amino phenol also in 100 cm3 of 0.1 N NaOH solution. The two solutions are mixed and air is bubbles for 2 hours in the resulting mixture at ambient temperature. The pH of the reaction mass in then brought to 5 by addition of an aqueous hydrochloric acid solution. The reaction mass is then filtered off to produce 2.12 g of said indophenol which, after recrystallization in a dimethylformamide-water mixture, melts at 248°C.

reactant | paraaminophenol | 0.02 mole, 2.18 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 2,6-dimethyl-3-amino phenol | 0.01 mole, 1.37 g | CC1=C(C(=CC=C1N)C)O | C8H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 0.1 N | [OH-].[Na+]
solvent | NaOH | 0.1 N, 100 cm3 | [OH-].[Na+]
product | indophenol | 2.12 g | C1=CC(=O)C=CC1=NC2=CC=C(C=C2)O | C12H9NO2
